US07005440B1
6,7-Dichloro-2-chloromethyl-quinoline
MS (ESI) 246 (M+H)+. Prepared from 6,7-dichloro-quinaldine and NCS in place of NBS.

reactant | 6,7-dichloro-quinaldine | ClC=1C=C2C=CC(=NC2=CC1Cl)C | C10H7Cl2N
reactant | NCS | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
product | 6,7-Dichloro-2-chloromethyl-quinoline | ClC=1C=C2C=CC(=NC2=CC1Cl)CCl | C10H6Cl3N
